US09238640B2
To a solution of 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-5,7-difluoro-3H-quinazolin-4-one (0.66 g, 1.60 mmol) in DMF (10 mL), a solution of sodium methoxide in methanol (25 wt %, 3.5 mL, 16.0 mmol) was added and the reaction mixture was stirred at room temperature for 16 hours. Water was added, acidified to pH approximately 4-5 with acetic acid, and the precipitated solid was filtered and dried under vacuum to give crude compound, which was further purified by column chromatography (silica gel 230-400 mesh; eluting with 2% methanol solution in dichloromethane) to yield 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-7-fluoro-5-methoxy-3H-quinazolin-4-one as a light yellow solid.

reactant | 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-5,7-difluoro-3H-quinazolin-4-one | 1.60 mmol, 0.66 g | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C22H22F2N4O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 16.0 mmol, 3.5 mL | CO | CH4O
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-7-fluoro-5-methoxy-3H-quinazolin-4-one | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C23H25FN4O3
